US08039469B2
A mixture of 2-(4-isocyanatophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (750 mg, 3.06 mmol), 2.0M Methylamine/THF (2.3 mL, 4.60 mmol) in 50 mL of THF was stirred at room temperature for 6 hr. Then the traction mixture was concentrated to give 1-methyl-3-[4-(4, 4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea. (760 mg, 90% yield). Rt=2.21 min; 277 [M+H].

reactant | 2-(4-isocyanatophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 3.06 mmol, 750 mg | N(=C=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H16BNO3
reactant | Methylamine THF | 4.60 mmol, 2.0M, 2.3 mL | CN.C1CCOC1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-methyl-3-[4-(4, 4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea | 90% yield | CNC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
